US09315487B2
1-((2S,4R)-4-Amino-6-(1-(2-methoxyethyl)-1H-pyrazol-4-yl)-2-methyl-3,4-dihydroquinolin-1(2H)-yl)ethanone (for a preparation see Intermediate 7) (100 mg, 0.304 mmol), 1-bromo-3-chlorobenzene (0.072 ml, 0.609 mmol), Davephos (24 mg, 0.061 mmol), Pd2(dba)3 (27.9 mg, 0.030 mmol) and sodium tert-butoxide (58.5 mg, 0.609 mmol) were combined in 1,4-dioxane (3 ml) and the mixture degassed over a period of 20 min. The mixture was heated at 120° C. for 25 min (microwave). The reaction mixture was partitioned between water (100 ml) and DCM (3×100 ml). The organics were combined, dried (hydrophobic frit) and evaporated under vacuum. The residual brown oil dissolved in DMSO (2×1 ml) and purified by MDAP (formate ×2). The solvent was evaporated under vacuum, the residue dissolved in DCM and applied to a silica cartridge (10 g). The cartridge was eluted with an ethyl acetate/cyclohexane gradient (0-100% over 10 CV followed by holding at 100% ethyl acetate for 5 CV). The appropriate fractions were combined and evaporated under vacuum to give 1-((2S,4R)-4-((3-chlorophenyl)amino)-6-(1-(2-methoxyethyl)-1H-pyrazol-4-yl)-2-methyl-3,4-dihydroquinolin-1(2H)-yl)ethanone (39 mg, 0.089 mmol, 29% yield) as a colourless glass. LCMS (formate), Rt 1.05 min, MH+ 438.

reactant | 1-((2S,4R)-4-Amino-6-(1-(2-methoxyethyl)-1H-pyrazol-4-yl)-2-methyl-3,4-dihydroquinolin-1(2H)-yl)ethanone | N[C@@H]1C[C@@H](N(C2=CC=C(C=C12)C=1C=NN(C1)CCOC)C(C)=O)C | C18H24N4O2
reactant | 1-bromo-3-chlorobenzene | 0.609 mmol, 0.072 ml | BrC1=CC(=CC=C1)Cl | C6H4BrCl
reactant | Davephos | 0.061 mmol, 24 mg | CN(C)C1=CC=CC=C1C2=CC=CC=C2P(C3CCCCC3)C4CCCCC4 | C26H36NP
reactant | sodium tert-butoxide | 0.609 mmol, 58.5 mg | CC(C)([O-])C.[Na+]
solvent | 1,4-dioxane | 3 ml | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.030 mmol, 27.9 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-((2S,4R)-4-((3-chlorophenyl)amino)-6-(1-(2-methoxyethyl)-1H-pyrazol-4-yl)-2-methyl-3,4-dihydroquinolin-1(2H)-yl)ethanone | 0.089 mmol, 39 mg, 29% yield | ClC=1C=C(C=CC1)N[C@@H]1C[C@@H](N(C2=CC=C(C=C12)C=1C=NN(C1)CCOC)C(C)=O)C | C24H27ClN4O2
